US08895313B2
2-{(E)-2-[4-(6-Methyl-1,3-benzothiazol-2-yl)phenyl]ethenyl}phenol
Prepared as described in the Alkene Formation section using diethyl 4-(6-methylbenzothiazol-2-yl)benzylphosphonate (0.30 g, 0.80 mmol) in dry THF (25 ml), potassium t-butoxide (0.19 g, 1.68 mmol) and 2-hydroxybenzaldehyde (0.097 g, 0.80 mmol) in dry THF (10 ml) to give the title compound (0.16 g, 60%) as a yellow solid after work-up and flash chromatography (1:1 Hexane/EtOAc).

reactant | diethyl 4-(6-methylbenzothiazol-2-yl)benzylphosphonate | 0.80 mmol, 0.30 g | CC1=CC2=C(N=C(S2)C2=CC=C(CP(OCC)(OCC)=O)C=C2)C=C1 | C19H22NO3PS
reactant | potassium t-butoxide | 1.68 mmol, 0.19 g | CC(C)([O-])C.[K+]
reactant | 2-hydroxybenzaldehyde | 0.80 mmol, 0.097 g | OC1=C(C=O)C=CC=C1 | C7H6O2
reactant | Hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-{(E)-2-[4-(6-Methyl-1,3-benzothiazol-2-yl)phenyl]ethenyl}phenol | 0.16 g, 60% | CC1=CC2=C(N=C(S2)C2=CC=C(C=C2)/C=C/C2=C(C=CC=C2)O)C=C1 | C22H17NOS
